US04654343
N-Methyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamid
A 12.5 g portion of N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide was added to 500 ml of dimethylformamide under argon. A 2.47 g portion of sodium hydride (50% in oil) was added, this mixture was stirred one hour, then 3.2 ml of methyl iodide was added. This mixture was stirred for 2.5 days, then poured into 1.5 liters of water and extracted with 150 ml portions of dichloromethane. The extracts were combined, dried and concentrated in vacuo. The residue was chromatographed as described in Example 1. Fractions 8-15 were combined, concentrated and the solid recrystallized from dichloromethane-hexane, giving 8.5 g of the desired product, mp 200°-203° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(C)=O | C14H13N5O
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 3.2 ml | CI | CH3I
solvent | water | 1.5 liters | O | H2O
product | N-Methyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamid | 8.5 g | CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C15H15N5O
